US06448397B1
To a mixture of 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole (0.28 g, 0.769 mmol) in dry DMF (6 mL) is added sodium iodide (0.09 g, 0.6 mmol), potassium carbonate (0.207 g, 1.5 mmol), and piperidine (0.13 g, 1.5 mmol). The mixture is heated at 70° C. for 6 h and then at room temperature for 18 h. The mixture is then partitioned between water and ether. The ether layer is washed three times with water (80 mL). The organic layer is dried over sodium sulfate and concentrated. Column chromatography (50 mL) silica gel using 1% methanol in CH2C2 as eluent gave 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl 2-(1-piperidinyl)ethyl ether (TLC: acetone/hexane, 20/80, Rf=0.42) which is converted to the methanesulfonate salt to give 0.134 g (34%) of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl 2-(1-piperidinyl)ethyl ether.

reactant | 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole | 0.769 mmol, 0.28 g | ClCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C22H18ClNO2
reactant | sodium iodide | 0.6 mmol, 0.09 g | [I-].[Na+]
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 1.5 mmol, 0.13 g | N1CCCCC1 | C5H11N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl 2-(1-piperidinyl)ethyl ether | N1(CCCCC1)CCOC=1C=CC=C2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C27H28N2O2
